US06331640B1
A solution of sulfamic acid (11.8 g, 121.5 mmol) in water (25 mL) was added with vigorous stirring to 3-chloro-4-hydroxy-5-methylbenzaldehyde (16.00 g, 93.8 mmol) in tert-butanol (100 mL). The mixture was cooled (˜12° C.) and a solution of sodium chlorite (12.00 g, 106.1 mmol) in water (25 mL) was added in5 mL portions with vigorous stirring. The reaction was exothermic and the temperature at the end of the addition was approximately 50° C. The two layers were separated and the aqueous layer was extracted with ether (2×50 mL). The organic layers were washed with brine and evaporated to dryness. Water was added, and the mixture was stirred and filtered. The solid was dissolved in warm ether (250 mL), and the solution was dried, filtered, concentrated to 100 mL, and cooled in the freezer (approx. −20 ° C.). Filtration and washing with cold ether gave 3-chloro-4-hydroxy-5-methylbenzoic acid (9.10 g, 52%), as a yellow solid, mp 242-244° C.

reactant | sulfamic acid | 121.5 mmol, 11.8 g | S(N)(O)(=O)=O | H3NO3S
reactant | 3-chloro-4-hydroxy-5-methylbenzaldehyde | 93.8 mmol, 16.00 g | ClC=1C=C(C=O)C=C(C1O)C | C8H7ClO2
reactant | sodium chlorite | 106.1 mmol, 12.00 g | Cl(=O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
solvent | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
solvent | water | 25 mL | O | H2O
product | 3-chloro-4-hydroxy-5-methylbenzoic acid | 9.10 g, 52% | ClC=1C=C(C(=O)O)C=C(C1O)C | C8H7ClO3
